US04214890
An equivalent amount of sodium hydride (50% mineral oil dispersion) is added to a solution of N-[[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]aminocarbonyl]-2,5-dichlorobenzenesulfonamide in dimethylformamide under a nitrogen atmosphere. After hydrogen evolution ceases, an equivalent amount of dimethylsulfate is added. After stirring for 12 hours the reaction mixture is poured into a large volume of water. The resulting precipitate is filtered to yield N-[[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]aminocarbonyl]-2,5-dichloro-N-methylbenzenesulfonamide.

reactant | sodium hydride | [H-].[Na+]
reactant | N-[[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]aminocarbonyl]-2,5-dichlorobenzenesulfonamide | COCCSC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl | C15H16Cl2N4O4S2
reactant | hydrogen | [H][H] | H2
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]aminocarbonyl]-2,5-dichloro-N-methylbenzenesulfonamide | COCCSC1=NC(=NC(=C1)C)NC(=O)N(S(=O)(=O)C1=C(C=CC(=C1)Cl)Cl)C | C16H18Cl2N4O4S2
